US07291631B2
COMPOUND 241: 6-Hydroxy-N-{3-[(3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amino]-propyl}-nicotinamide (HBr salt)
Using General Procedure G: To a solution of N1-(3-Methyl-pyridin-2-ylmethyl)-N1-(1-pyridin-2-yl-ethyl)-propane-1,3-diamine (0.33 g, 1.16 mmol) in dry DMF (3 mL) was added 6-hydroxy-nicotinic acid (0.174 g, 1.24 mmol) followed by EDCI (0.257 g, 1.34 mmol), HOBT (0.183 g, 1.35 mmol), and DIPEA (0.40 mL, 2.30 mmol). Purification of the crude material by column chromatography on silica gel (10:1:1 CH2Cl2-MeOH—NH4OH) provided 177 mg (38%) of the free base of the title compound as a colorless oil. Conversion to the HBr salt gave COMPOUND 241 (270 mg, 83%) as a white solid. 1H NMR (D2O) δ 1.55 (d, 3H, J=6.6 Hz), 1.67 (quintet; 2H, J=7.2 Hz), 2.43 (s, 3H), 2.48-2.58 (m, 1H), 2.63-2.74 (m, 1H), 3.12-3.31 (m, 2H), 4.28 (s, 2H), 456 (q, 1H, J=6.6 Hz), 6.61 (d, 1H, J=9.3 Hz), 7.78-7.83 (m, 2H), 7.89-7.94 (m, 2H), 8.11 (d, 1H, J=8.1 Hz), 8.30 (d, 1H, J=8.1 Hz), 8.49-8.58 (m, 2H), 8.74 (d, 1H, J=5.7 Hz); 13C NMR (D2O) δ 15.07, 16.98, 26.37, 37.59, 50.21, 50.95, 59.83, 115.31, 119.32, 125.82, 126.75, 126.83, 137.21, 137.53, 138.40, 140.83, 142.09, 148.06, 148.24, 152.11, 156.20, 165.43, 166.77; ES-MS m/z 406 (M+H). Anal. Calcd. for C23H27N5O2.3.3HBr.4.2H2O: C, 36.92; H, 5.21; N, 9.36; Br, 35.24. Found: C, 36.85; H, 5.39; N, 9.04; Br, 35.63.

reactant | N1-(3-Methyl-pyridin-2-ylmethyl)-N1-(1-pyridin-2-yl-ethyl)-propane-1,3-diamine | 1.16 mmol, 0.33 g | CC=1C(=NC=CC1)CN(CCCN)C(C)C1=NC=CC=C1 | C17H24N4
reactant | 6-hydroxy-nicotinic acid | 1.24 mmol, 0.174 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | EDCI | 1.34 mmol, 0.257 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.35 mmol, 0.183 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.30 mmol, 0.40 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-Hydroxy-N-{3-[(3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amino]-propyl}-nicotinamide | 177 mg, 38% | OC1=NC=C(C(=O)NCCCN(C(C)C2=NC=CC=C2)CC2=NC=CC=C2C)C=C1 | C23H27N5O2
